US06485797B1
4-Fluoro-6-(5-octyl-pyridine-2-yl)-2-octyl-indane
Obtained by reacting with 2,5-dibromopyridine to form 4-fluoro-6-(5-bromo-pyridine-2-yl)-2-octyl indane and subsequent reaction with the octene-9-BBN-adduct.

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-fluoro-6-(5-bromo-pyridine-2-yl)-2-octyl indane | FC1=C2CC(CC2=CC(=C1)C1=NC=C(C=C1)Br)CCCCCCCC | C22H27BrFN
reactant | octene 9-BBN | C=CCCCCCC.B1C2CCCC1CCC2
product | 4-Fluoro-6-(5-octyl-pyridine-2-yl)-2-octyl-indane | FC1=C2CC(CC2=CC(=C1)C1=NC=C(C=C1)CCCCCCCC)CCCCCCCC | C30H44FN
